US05834501
5-{4-[2-(Indol-3-yl)ethoxy]benzyl}thiazolidine-2.4-dione (Compound No. 1-2)
A procedure similar to that described in Example 2 was repeated, except that 1.77 g of 5-{4-[2-(indol-3-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 11), 53 ml of methylene chloride and 0.3 ml of trifluoroacetic acid were used, to give 0.67 g of the title compound, melting at 42.6°-44.5° C.

reactant | 5-{4-[2-(indol-3-yl)ethoxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.77 g | N1C=C(C2=CC=CC=C12)CCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C39H32N2O3S
reactant | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 53 ml | C(Cl)Cl | CH2Cl2
product | 5-{4-[2-(Indol-3-yl)ethoxy]benzyl}thiazolidine-2.4-dione | 0.67 g | N1C=C(C2=CC=CC=C12)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H18N2O3S
